US06503935B1
1-nitro-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one
6,7,8,9-Tetrahydro-5H-benzo[a]cyclohepten-5-one (18.5 g, 11.5 mmol) was mechanically stirred at −15° C. and treated with concentrated sulfuric acid (41 mL) over 5 minutes, stirred 10 minutes, treated dropwise over 10 minutes with a mixture of fuming nitric acid (9 mL) and concentrated sulfuric acid (14 mL), stirred at −15° C. for 15 minutes and poured carefully onto a mixture of ice (200 g) and water (200 mL). The resulting solid was collected by filtration, washed with water (100 mL, 2×), dried and recrystallized from ethanol (200 mL). The resulting solid was removed by filtration and the filtrate was suspended on silica gel and purified on silica gel eluting with ethyl acetate:hexanes 12:88 to provide the desired product.

reactant | 6,7,8,9-Tetrahydro-5H-benzo[a]cyclohepten-5-one | 11.5 mmol, 18.5 g | C1=CC=CC2=C1CCCCC2=O | C11H12O
reactant | sulfuric acid | 41 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 9 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 14 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 mL | O | H2O
product | 1-nitro-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one | [N+](=O)([O-])C1=CC=CC2=C1CCCCC2=O | C11H11NO3
